US06255327B1
1-{2-[2(N,N-dimethylamino)ethyl]oxy-phenyl}-3-phenyl-pyrrole
This is prepared from 1-(2-hydroxyphenyl)-3-phenyl-pyrrole analogously to Example 12 (step b). Melting point: 116-121° C. (hydrochloride);

reactant | 1-(2-hydroxyphenyl)-3-phenyl-pyrrole | OC1=C(C=CC=C1)N1C=C(C=C1)C1=CC=CC=C1 | C16H13NO
reactant | hydrochloride | Cl | ClH
product | 1-{2-[2(N,N-dimethylamino)ethyl]oxy-phenyl}-3-phenyl-pyrrole | CN(C)CCOC1=C(C=CC=C1)N1C=C(C=C1)C1=CC=CC=C1 | C20H22N2O
